US04963590
3-(3,4-Dihydroxy-5-nitrophenyl)-1-(4-methylphenyl)-prop-2-en-1-one
A solution containing 5.49 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 5.37 g of 4'-methylacetophenone in 50 ml of tetrahydrofuran was added a catalytic amount of gaseous hydrogen chloride and refluxed for 4.5 h. The solvent was evaporated in vacuo and the residue crystallized from ether-petroleum-ether, yield 1.85 g (21%), m.p. 184°-186° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 5.49 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | 4'-methylacetophenone | 5.37 g | CC1=CC=C(C=C1)C(C)=O | C9H10O
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(3,4-Dihydroxy-5-nitrophenyl)-1-(4-methylphenyl)-prop-2-en-1-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=CC(=O)C1=CC=C(C=C1)C | C16H13NO5
